US09108921B2
Step F: Compound 405: N-(4-(4-(3,3-difluoro-2-methylpropyl)-4-hydroxypiperidine-1-carbonyl)phenyl)benzo[d]thiazole-4-sulfonamide
To a round-bottom flask was added 4-(3,3-difluoro-2-methylpropyl)piperidin-4-ol (110 mg 0.57 mmol), 4-(benzo[d]thiazole-4-sulfonamido)benzoic acid (190 mg, 0.57 mmol), DIPEA (367 mg, 2.8 mmol), HATU (261 mg, 0.69 mmol), and DCM (5 mL). The mixture was stirred at r.t. for 16 hours. After washing with brine, the combined organic layer was dried over anhy. Na2SO4 and concentrated in vacuo. Purification by a standard method gave the desired compound. 1H NMR (CHLOROFORM-d) δ: 9.31 (s, 1H), 8.20 (d, J=8.1 Hz, 1H), 8.10 (d, J=7.5 Hz, 1H), 7.94 (s, 1H), 7.55 (t, J=7.9 Hz, 1H), 7.20 (d, J=8.5 Hz, 2H), 7.12 (d, J=8.6 Hz, 2H), 5.90-5.61 (m, 1H), 4.36 (s, 1H), 3.57-3.42 (m, 1H), 3.21 (s, 2H), 2.24 (d, J=7.6 Hz, 1H), 2.05 (s, 1H), 1.86-1.77 (m, 2H), 1.36 (dd, J=14.8, 6.3 Hz, 4H), 1.10 (d, J=7.0 Hz, 3H). LC-MS: m/z 510.5 (M+H)+

reactant | 4-(3,3-difluoro-2-methylpropyl)piperidin-4-ol | 0.57 mmol, 110 mg | FC(C(CC1(CCNCC1)O)C)F | C9H17F2NO
reactant | 4-(benzo[d]thiazole-4-sulfonamido)benzoic acid | 0.57 mmol, 190 mg | S1C=NC=2C1=CC=CC2S(=O)(=O)NC2=CC=C(C(=O)O)C=C2 | C14H10N2O4S2
reactant | DIPEA | 2.8 mmol, 367 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.69 mmol, 261 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(4-(3,3-difluoro-2-methylpropyl)-4-hydroxypiperidine-1-carbonyl)phenyl)benzo[d]thiazole-4-sulfonamide | FC(C(CC1(CCN(CC1)C(=O)C1=CC=C(C=C1)NS(=O)(=O)C=1C=CC=C2C1N=CS2)O)C)F | C23H25F2N3O4S2
